US07605271B2
To a 50 ml four necked flask equipped with a stirrer, a dropping funnel, a cooling tube and a thermometer, 41.05 g (0.5 mol) of 1-methyl imidazole and 50 ml of toluene were charged, and heating at 50° C., 93.49 g (0.55 mol) of propyl iodide was dropped slowly taking one hour or more. After stirring under heating at 50° C. for 4 hours, precipitates were separated by filtration, washed by using toluene and dried under a reduced pressure to obtain 122.26 g of 1-methyl-3-propyl imidazolium iodide salt. Then, 122.26 g of the obtained 1-methyl-3-propyl imidazolium methane sulfonate salt was dissolved in 80 ml of water, and a solution in which 139.24 g of lithium bis(trifluoromethane sulfonyl)imide was dissolved in 80 ml of water was added thereto at a room temperature and stirred. From separated two layers, the lower layer was fractionated and by-products were removed by adding 40 wt % of purified water and by water washing five times and vacuum drying was applied to obtain 175.39 g of 1-methyl-3-propyl imidazolium bis(trifluoromethane sulfonyl) imide. As a result of ICP analysis, 2.4 ppm of total alkali metals, 2.9 ppm of chlorine and 6.5 ppm of iodine were contained.

reactant | 1-methyl imidazole | 0.5 mol, 41.05 g | CN1C=NC=C1 | C4H6N2
reactant | propyl iodide | 0.55 mol, 93.49 g | C(CC)I | C3H7I
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-3-propyl imidazolium iodide salt | 122.26 g | [I-].C[N+]1=CN(C=C1)CCC | InChI=1S/C7H13N2.HI/c1-3-4-9-6-5-8(2)7-9;/h5-7H,3-4H2,1-2H3;1H/q+1;/p-1
